US09399635B2
(3) Synthesis of 3-[(1E)-2-(1H-indol-6-yl)ethenyl]-5-[(1E)-2-[2-methoxy-4-(2-tetrahydrofuranylmethoxy)phenyl]ethenyl]-1H-pyrazole
In 4.5 mL of acetic acid was dissolved 400 mg (0.898 mmol) of (1E,6E)-1-(1H-indol-6-yl)-7-[2-methoxy-4-(2-tetrahydrofuranylmethoxy)phenyl]hepta-1,6-diene-3,5-dione. To this solution was added 0.45 g (9.0 mmol) of hydrazine monohydrate at room temperature and the mixture was stirred at 60° C. for 3 hours. The resulting reaction mixture was diluted with ethyl acetate, washed with a saturated sodium bicarbonate aqueous solution and then with saturated brine, and dried over magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate or methylene chloride/methanol). The resulting solid was washed with an organic solvent to give 298 mg (75% yield) of the title compound as a pale yellowish white powder with the following properties.

reactant | (1E,6E)-1-(1H-indol-6-yl)-7-[2-methoxy-4-(2-tetrahydrofuranylmethoxy)phenyl]hepta-1,6-diene-3,5-dione | 0.898 mmol, 400 mg | N1C=CC2=CC=C(C=C12)\C=C\C(CC(\C=C\C1=C(C=C(C=C1)OCC1OCCC1)OC)=O)=O | C27H27NO5
reactant | hydrazine monohydrate | 9.0 mmol, 0.45 g | O.NN
solvent | acetic acid | 4.5 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(1E)-2-(1H-indol-6-yl)ethenyl]-5-[(1E)-2-[2-methoxy-4-(2-tetrahydrofuranylmethoxy)phenyl]ethenyl]-1H-pyrazole | 298 mg, 75% yield | N1C=CC2=CC=C(C=C12)/C=C/C1=NNC(=C1)\C=C\C1=C(C=C(C=C1)OCC1OCCC1)OC | C27H27N3O3
